US05756508
A solution of 6.5 g of predominantly (±)-trans-5-carbomethoxy-2-methyl-4-oxo-1-propyl piperidine and 30 mL of 20% hydrochloric acid was heated to reflux for 2 h. The solution was cooled in an ice bath, basified by addition of NaOH pellets until the pH was 9-10 and extracted with 5×100 mL of chloroform. The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure. After azeotropic dying with toluene there was obtained 5.6 g of predominantly (±)-2-methyl-4-oxo-1-propyl piperidine as an amber oil: TLC (EtOAc); 1H NMR (400 MHz, CDCl3) 3.1 (m, 1H), 2.9 (m, 1H), 2.8-2.6 (complex m, 3H), 2.5 (m, 4H), 1.5 (m, 2H), 1.15 (d, 3H), 0.9 (t, 3H).

reactant | (±)-trans-5-carbomethoxy-2-methyl-4-oxo-1-propyl piperidine | C(=O)(OC)[C@H]1C(C[C@@H](N(C1)CCC)C)=O | C11H19NO3
reactant | NaOH | [OH-].[Na+]
solvent | hydrochloric acid | 30 mL | Cl | ClH
product | (±)-2-methyl-4-oxo-1-propyl piperidine | CC1N(CCC(C1)=O)CCC | C9H17NO
